US07750003B2
4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline
Dichlorobis(triphenylphosphine)palladium(II) (116 mg, 0.17 mmol) was added to 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidine (1.2 g, 3.32 mmol), and sodium carbonate (5 mL, 10.00 mmol) in 18% DMF in a mixture of DME:water:ethanol (7:3:2) (20 mL). The resulting solution was stirred at 90° C. for 4 hours.

reactant | 2-chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidine | 3.32 mmol, 1.2 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)C(C)(C)S(=O)(=O)C(C)C | C15H24ClN3O3S
reactant | sodium carbonate | 10.00 mmol, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DME water ethanol | 20 mL | COCCOC.O.C(C)O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.17 mmol, 116 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(2-propan-2-ylsulfonylpropan-2-yl)pyrimidin-2-yl]aniline | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)C(C)(C)S(=O)(=O)C(C)C)C1=CC=C(N)C=C1 | C21H30N4O3S
